* ============================================================================
* TLV7034 (quad) -- TI PSpice macromodel
* ============================================================================
* PROVENANCE (read this before trusting any result derived from this model):
*
*   Source: TI literature SLVMDH3, listed on the TLV7034 product folder as
*           "TLV7034 PSpice Model". Downloaded from ti.com/lit/zip/slvmdh3.
*   The zip contains a single netlist named tlv7031.lib. That is expected:
*   the TLV7034 is four copies of the TLV703x die, so TI ships one model for
*   the family and the quad is instantiated four times. The subcircuit inside
*   is .SUBCKT TLV7031.
*
* DISCREPANCIES vs the TLV703x datasheet (SLVSE13J), all verified in TB10:
*
*   1. The file header says "Part: TLV7011" and "Datasheet: SLVSDM5F" even
*      though the subcircuit is named TLV7031. TI appears to have derived the
*      TLV703x model from the TLV701x one. This matters for exactly one
*      number, hysteresis (see 2). Everything else was checked in TB10.
*
*   2. HYSTERESIS: the model hard-codes VHYS = 7 mV (V_V1 N00366 0 7m inside
*      TOPLEVELSCHEMATIC, feeding the HPA_COMPHYS block). The TLV703x
*      datasheet specifies 10 mV typ, 3 mV min, 25 mV max. 7 mV is therefore
*      CONSERVATIVE against typ and still well above the 3 mV minimum.
*      Chatter conclusions drawn with this model are pessimistic, not
*      optimistic, which is the safe direction.
*
*   3. SUPPLY RANGE: the model's SUPPLYRANGE block enforces 1.65 V <= Vs <=
*      5.5 V; the datasheet allows 1.6 V to 6.5 V. Vs = 3.3 V sits comfortably
*      inside both, so this never trips here.
*
*   4. INPUT RANGE: the INPUTRANGE block flags out-of-range only when an input
*      exceeds an ABSOLUTE 6 V, or falls below V- - 0.3 V. Note it is NOT
*      referenced to V+. This is the whole reason the part fixes the board:
*      the LM2901 model's INPUTRANGE enforced Vcc-2.0 (= 1.30 V at 3.3 V) and
*      the 1.65 V reference sat above it. Datasheet VCM is V- to V+ + 0.1.
*      The model is thus slightly OPTIMISTIC above V+ + 0.1; we never operate
*      there (max input is N_SUM at ~3.10 V), so it does not affect any
*      conclusion. TB10(B) measures this directly.
*
*   5. The out-of-range flag uses the same mid-supply (MID_SUPPLY / S3 switch)
*      mechanism as the LM2901 model: if it ever trips, OUT is FORCED to
*      Vs/2 = 1.65 V. As with the LM339 work, a 1.65 V output from this model
*      is a "model invalid here" flag, NOT a physical prediction. TB10 exists
*      to prove the flag stays untripped across our whole operating range.
*
*   6. The output stage is two ideal-ish BJTs (NPN1/PNP1, LEVEL=1, RC=1,
*      RB=850). VOL/VOH fidelity is therefore modelled, not characterised.
*      TB10(C) compares the model's VOL at 3 mA against the datasheet's
*      250 mV typ / 350 mV max before any LED current is quoted.
*
* MODIFICATIONS: none. The netlist below is byte-identical to TI's, except
* that CRLF line endings were converted to LF. No content was edited.
* ============================================================================
*
* WRAPPER: TI's port order is (IN+ IN- OUT V+ V-). Every other comparator in
* this project (LM2901) uses (IN+ IN- Vcc GND OUT). Rather than silently
* re-order ports at each call site -- an easy way to produce a wrong answer
* that still simulates -- the wrapper below adapts TI's subcircuit to the
* house port order. Call TLV7034; do not call TLV7031 directly.
*
.SUBCKT TLV7034 IN+ IN- Vcc GND OUT
X1 IN+ IN- OUT Vcc GND TLV7031
.ENDS TLV7034
*
* ---------------- TI's netlist, verbatim from SLVMDH3 ----------------
* PSpice Model Editor - Version 17.2.0
*$
* TLV7011
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TLV7011
* Date: 08/04/2020
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLVSDM5F - March 2020
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*         2.0 : Improving Convergence
*
*****************************************************************************
* Notes:
* The following parameters are modeled: 
* Iq, tpd, Ibias, Vcm, Vs, Vhyst, Voh/Vol
*
*****************************************************************************
* source TLV7031
.SUBCKT TLV7031 IN+ IN- OUT V+ V-  
X_U1 IN+ IN- OUT V+ V- TOPLEVELSCHEMATIC  
.ENDS
 
.SUBCKT TOPLEVELSCHEMATIC IN+ IN- OUT V+ V-  
X_U7         IN+_BUFF IN-_BUFF N00308 V+_BUFF V-_BUFF N00366 HPA_COMPHYS
X_U4 IN-_BUFF IN+_BUFF N00323 V+_BUFF V-_BUFF INPUTRANGE  
X_U6 N00316 N00323 V+_BUFF V-_BUFF N00312 OUT OUTPUTSTAGE  
X_U3 IN+ IN+_BUFF IN- IN-_BUFF INPUTBUFFER  
X_U2 N00316 V+_BUFF V-_BUFF SUPPLYRANGE  
X_U1 V+ V+_BUFF V- V-_BUFF SUPPLYBUFFER  
X_U5 N00308 N00312 PROPDELAY  
V_V1         N00366 0 7m
I_I1         V+ 0 DC 335n  
I_I2         IN+ 0 DC 2p  
I_I3         IN- 0 DC 2p  
.ENDS
 
.SUBCKT PROPDELAY VIN VOUT  
T_T1         VIN 0 VOUT 0 Z0=50 TD=3u 
R_R1         0 VOUT  50 TC=0,0 
.ENDS
 
.SUBCKT SUPPLYBUFFER V+ V+_BUFFER V- V-_BUFFER  
X_U1         V+ V- V+_BUFFER V-_BUFFER SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT SUPPLYRANGE EN V+_BUFFER V-_BUFFER  
X_U5         N18928 N18958 N18940 V+_BUFFER V-_BUFFER VCC_RANGE
V_V4         N19230 0 1.65
X_U15         N18958 N19230 N19104 V+_BUFFER V-_BUFFER VCC_Range
V_V5         N19172 0 1
V_V1         N18928 0 5.5
X_U13         V+_BUFFER V-_BUFFER N18958 V+_BUFFER V-_BUFFER DIFFERENCE
X_U17         N19100 0 N19172 EN V+_BUFFER V-_BUFFER ENABLE_TLV7021
X_U16          N18940 N19104 N19100 V+_BUFFER V-_BUFFER ANDGATE
.ENDS
 
.SUBCKT INPUTBUFFER IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT OUTPUTSTAGE EN INRANGE V+_BUFFER V-_BUFFER VIN VOUT  
X_S4    CONTROL 0 N773134 N773128 OUTPUTSTAGE_S4 
Q_Q2         VOUT N772690 V+_BUFFER PNP1 
X_S3    CONTROL 0 VOUT MID OUTPUTSTAGE_S3 
V_V3         1V 0 1
X_U6         N773122 N773128 N772926 V-_BUFFER INVERTER
V_V2         N772926 V-_BUFFER 1
X_U3         VIN N772678 V+_BUFFER V-_BUFFER N772534 V-_BUFFER DIGLEVSHIFT
Q_Q1         VOUT N773134 V-_BUFFER NPN1 
X_U4         VIN N773122 V+_BUFFER V-_BUFFER N772926 V-_BUFFER DIGLEVSHIFT
X_U8         INRANGE EN CONTROL 1V 0 ORGATE
V_V1         N772534 V+_BUFFER 1
X_S5    CONTROL 0 N772690 N772684 OUTPUTSTAGE_S5 
X_U5         N772678 N772684 N772534 V-_BUFFER INVERTER
X_U7         MID V+_BUFFER V-_BUFFER MID_SUPPLY
.ENDS
 
.SUBCKT INPUTRANGE INN INP INRANGE V+_BUFFER V-_BUFFER  
X_U18         N24659 N24743 N24733 V+_BUFFER V-_BUFFER ORGATE
X_U2         N24835 INN N24743 V+_BUFFER V-_BUFFER VINRANGE_393
V_V3         N25117 V-_BUFFER -.3
X_U19         N25095 N25203 N24963 V+_BUFFER V-_BUFFER ORGATE
V_V4         N25311 V-_BUFFER -.3
X_U1         N24639 INP N24659 V+_BUFFER V-_BUFFER VINRANGE_393
V_V1         N24639 0 6
X_U20         N24733 N24963 0 N25027 INRANGE V+_BUFFER V-_BUFFER ORGATE1701
X_U3         INP N25117 N25095 V+_BUFFER V-_BUFFER VINRANGE_393
V_V5         N25027 0 1
V_V2         N24835 0 6
X_U17         INN N25311 N25203 V+_BUFFER V-_BUFFER VINRANGE_393
.ENDS

.subckt OUTPUTSTAGE_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends OUTPUTSTAGE_S4

.subckt OUTPUTSTAGE_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e12 Ron=1.0 Voff=0 Von=1
.ends OUTPUTSTAGE_S3

.subckt OUTPUTSTAGE_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends OUTPUTSTAGE_S5

.SUBCKT ANDGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS

.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT ENABLE_LOGIC 1 2 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT ENABLE_TLV7021 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(3) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT VIN_INV 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 2 0 1e-12
.ENDS

.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS

.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS

.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT ORGATE1701 1 2 3 4 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(3), V(4) ) }
.ENDS

.SUBCKT Difference 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { V(1)- V(2)}
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
C1 2 0 1e-12
.ENDS

.SUBCKT VCC_Range 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT VINRANGE_393 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS


.MODEL NPN1 NPN LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n 
.MODEL PNP1 PNP LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n 


